US06900215B2
1-Ethoxy-4,4-difluoropent-1-en-3-one (3.28 g, 20.0 mmol) in ethanol (10 ml) was added dropwise over 10 min to a warm (60° C.) suspension of 2-aminoimidazole hemisulfate (3.96 g, 30.0 mmol) and sodium methoxide (2.16 g, 40.0 mmol) in ethanol (40 ml). The mixture was heated under reflux for 18 h, cooled to ambient temperature and then pre-adsorbed directly onto silica. Purification by chromatography on silica gel eluting with dichloromethane (containing 1% conc. ammonia) on a gradient of methanol (1-3%) gave 7-(1,1-difluoroethyl)imidazo[1,2-α]pyrimidine (1.80 g, 49%) as an off-white solid: δH (400 MHz, CDCl3) 2.14 (3H, t, J 19), 7.26 (1H, d, J 7), 7.64 (1H, d, J 1), 7.92 (1H, d, J 1), 8.56 (1H, d, J 7).

reactant | 1-Ethoxy-4,4-difluoropent-1-en-3-one | 20.0 mmol, 3.28 g | C(C)OC=CC(C(C)(F)F)=O | C7H10F2O2
reactant | 2-aminoimidazole hemisulfate | 30.0 mmol, 3.96 g | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
reactant | sodium methoxide | 40.0 mmol, 2.16 g | C[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 7-(1,1-difluoroethyl)imidazo[1,2-α]pyrimidine | 1.80 g, 49% | FC(C)(F)C1=NC=2N(C=C1)C=CN2 | C8H7F2N3
